US06649636B1
4-(2-Furyl)-3-(cyano)phenyl-1-ethanone
The title compound was prepared according to the procedure for preparation of 4-(2-furyl)-3-(methoxycarbonyl)phenyl-1-ethanone using 2-Cyano-4-acetylphenyl trifluoromethanesulfonate instead of 2-Methoxycarbonyl-4-acetylphenyl trifluoromethanesulfonate.

reactant | 4-(2-furyl)-3-(methoxycarbonyl)phenyl-1-ethanone | O1C(=CC=C1)C1=C(C=C(C=C1)C(C)=O)C(=O)OC | C14H12O4
reactant | 2-Cyano-4-acetylphenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(C)=O)C#N)(F)F | C10H6F3NO4S
product | 4-(2-Furyl)-3-(cyano)phenyl-1-ethanone | O1C(=CC=C1)C1=C(C=C(C=C1)C(C)=O)C#N | C13H9NO2
